US07419997B2
N-(6-Chloro-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-1-methyl-1H-pyrazole-3-carboxamide was prepared from 1-methyl-1H-pyrazole-3-carboxylic acid and 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine in a similar manner as described above to give an off-white solid (20% yield). 1H-NMR (CDCl3): δ 8.95 (s, 1H), 7.43 (m, 1H), 7.37 (m, 1H), 7.22 (d, 1H), 7.07 (dd, 1H), 6.80 (m, 1H), 5.30 (m, 1H), 3.88 (s, 3H), 2.71 (m, 2H), 2.27 (m, 1H), 1.97 (m, 3H); MS m/z 327 (M−1).

reactant | 1-methyl-1H-pyrazole-3-carboxylic acid | CN1N=C(C=C1)C(=O)O | C5H6N2O2
reactant | 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine | ClC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13ClN2
product | N-(6-Chloro-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-1-methyl-1H-pyrazole-3-carboxamide | ClC=1C=C2C=3CCCC(C3NC2=CC1)NC(=O)C1=NN(C=C1)C | C17H17ClN4O
